US07037935B2
In an analogous manner to that described in Example 28b), the alkylation of the (R)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester [Example 28a)] with 3-chlorobenzylalcohol yields the (R)-1-[4-(3-chloro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester as a white solid. MS: m/e=360 (M+H)+.

reactant | (R)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)O | C12H13NO4
reactant | 3-chlorobenzylalcohol | ClC=1C=C(CO)C=CC1 | C7H7ClO
product | (R)-1-[4-(3-chloro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)Cl | C19H18ClNO4
